US07423035B2
6-hydroxy-8-{1-hydroxy-2-[1-(4-hydroxy-benzyl)-cyclopropylamino]-ethyl}-4H-benzo[1,4]oxazin-3-one
Prepared according to general method 3 from 357 mg (1 mmol) 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 253 mg (1 mmol) 1-(4-benzyloxy-benzyl)-cyclopropylamine. Yield: 47 mg (10%, trifluoroacetate); mass spectroscopy: [M+H]+=371.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 1-(4-benzyloxy-benzyl)-cyclopropylamine | 1 mmol, 253 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2(CC2)N)C=C1 | C17H19NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 6-hydroxy-8-{1-hydroxy-2-[1-(4-hydroxy-benzyl)-cyclopropylamino]-ethyl}-4H-benzo[1,4]oxazin-3-one | OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC1(CC1)CC1=CC=C(C=C1)O)O | C20H22N2O5
